US06809199B2
The 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-({4-[2-(dimethylamino)ethyl]piperazin-1yl}sulfonyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride (COMPOUND CCC8) and N,N-dimethyl-2-piperazin-1-ylethanamine by a procedure analogous to that described in EXAMPLE CCC25, STEP B. Mass spectrum (ESI) 742 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)Cl)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl4N2O4S
reactant | N,N-dimethyl-2-piperazin-1-ylethanamine | CN(CCN1CCNCC1)C | C8H19N3
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-({4-[2-(dimethylamino)ethyl]piperazin-1yl}sulfonyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)N1CCN(CC1)CCN(C)C)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C36H38Cl3N5O4S
